US09334269B2
To a microwave vial charged 3-(4-(3-hydroxypropylamino)-1,3,5-triazin-2-ylamino)-N-methylbenzamide (0.112 g, 0.370 mmol) was added dichloroethane (4 mL), triphenylphosphine (0.146 g, 0.556 mmol), p-chlorophenol (0.095 g, 0.741 mmol)) and DEAD (0.129 g, 0.741 mmol) respectively. The reaction mixture was irradiated in the microwave at 130° C. for 30 min. The reaction mixture was concentrated under reduced pressure and purified with flash chromatography using CH2Cl2:MeOH:NH4OH (90:10:1) in CH2Cl2 to afford 3-(4-(3-(4-chlorophenoxy)propylamino)-1,3,5-triazin-2-ylamino)-N-methylbenzamide (30 mg, 20%) as a white solid.

reactant | 3-(4-(3-hydroxypropylamino)-1,3,5-triazin-2-ylamino)-N-methylbenzamide | 0.370 mmol, 0.112 g | OCCCNC1=NC(=NC=N1)NC=1C=C(C(=O)NC)C=CC1 | C14H18N6O2
reactant | dichloroethane | 4 mL | ClC(C)Cl | C2H4Cl2
reactant | triphenylphosphine | 0.556 mmol, 0.146 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | p-chlorophenol | 0.741 mmol, 0.095 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | DEAD | 0.741 mmol, 0.129 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 3-(4-(3-(4-chlorophenoxy)propylamino)-1,3,5-triazin-2-ylamino)-N-methylbenzamide | 30 mg, 20% | ClC1=CC=C(OCCCNC2=NC(=NC=N2)NC=2C=C(C(=O)NC)C=CC2)C=C1 | C20H21ClN6O2
